US08193187B2
7-Bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 3-1)
A mixture of 7-bromo-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 1, 805 mg, 2.69 mmol), 5-fluoro-2-methylphenol (382 μL, 3.50 mmol), and tri-n-butylphosphine (874 μL, 3.50 mmol) was dissolved in anhydrous tetrahydrofuran (25 mL), 1,1′-(azodicarbonyl)dipiperidine (883 mg, 3.50 mmol) was added thereto, and then the mixture was stirred at room temperature for 1 hour. 5-Fluoro-2-methylphenol (382 μL, 3.50 mmol), tri-n-butylphosphine (874 μL, 3.50 mmol), and 1,1′-(azodicarbonyl)dipiperidine (890 mg, 3.53 mmol) were added thereto and it was furthermore stirred for 20 minutes. After hexane (15 mL) was added to the reaction mixture and the precipitated solids were filtered out, the filtrate was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (900 mg) as a colorless solid. (Yield 82%)

reactant | 7-bromo-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 2.69 mmol, 805 mg | BrC1=CC=C2NC(C(N(C2=C1CO)C)=O)(C)C | C12H15BrN2O2
reactant | 5-fluoro-2-methylphenol | 3.50 mmol, 382 μL | FC=1C=CC(=C(C1)O)C | C7H7FO
reactant | tri-n-butylphosphine | 3.50 mmol, 874 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.50 mmol, 883 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 5-Fluoro-2-methylphenol | 3.50 mmol, 382 μL | FC=1C=CC(=C(C1)O)C | C7H7FO
reactant | tri-n-butylphosphine | 3.50 mmol, 874 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.53 mmol, 890 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | hexane | 15 mL | CCCCCC | C6H14
product | 7-Bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 900 mg, Yield 82% | BrC1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C | C19H20BrFN2O2
